US04230620
A penicillin is treated with a peroxymonosulfate at a temperature of from about 0° C. to about 50° C. in an aqueous medium to produce a penicillin sulfoxide.

reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | peroxymonosulfate | S(=O)(=O)(O[O-])[O-]
product | penicillin sulfoxide | CC1([C@@H](N2[C@H](S1=O)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)O)C | C16H18N2O5S
